US07417060B2
To a solution of tert-butyl [(2R)-2-hydroxy-2-phenylethyl][2-[3′-isopropoxy-4′-[[(pentylsulfonyl)amino]-carbonyl]-4-biphenylyl]ethyl]carbamate (170 mg) in ethyl acetate (2 ml) was added hydrochloric acid ethyl acetate solution (4N, 4 ml) at room temperature and the mixture was stirred at the same temperature overnight. The mixture was filtered to collect the precipitate and the precipitate was washed with ethyl acetate. The precipitate was dried under reduced pressure to give 4′-[2-[[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-isopropoxy-N-(pentylsulfonyl)-4-biphenylcarboxamide hydrochloride (106 mg).

reactant | tert-butyl [(2R)-2-hydroxy-2-phenylethyl][2-[3′-isopropoxy-4′-[[(pentylsulfonyl)amino]-carbonyl]-4-biphenylyl]ethyl]carbamate | 170 mg | O[C@@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NS(=O)(=O)CCCCC)OC(C)C)C1=CC=CC=C1 | C36H48N2O7S
reactant | hydrochloric acid ethyl acetate | 4N, 4 ml | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 4′-[2-[[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-isopropoxy-N-(pentylsulfonyl)-4-biphenylcarboxamide hydrochloride | 106 mg | Cl.O[C@@H](CNCCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NS(=O)(=O)CCCCC)OC(C)C)C1=CC=CC=C1 | InChI=1S/C31H40N2O5S.ClH/c1-4-5-9-20-39(36,37)33-31(35)28-17-16-27(21-30(28)38-23(2)3)25-14-12-24(13-15-25)18-19-32-22-29(34)26-10-7-6-8-11-26;/h6-8,10-17,21,23,29,32,34H,4-5,9,18-20,22H2,1-3H3,(H,33,35);1H/t29-;/m0./s1
